US05486527
3-(Diphenylhydroxymethyl)-1-(4-methoxyphenethyl)piperidine
The title compound was prepared by the method of Example 11 by reacting phenyllithium with ethyl 1-(4-methoxyphenethyl)piperidine-3-carboxylate. The title compound was obtained as a colourless oil.

reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | ethyl 1-(4-methoxyphenethyl)piperidine-3-carboxylate | COC1=CC=C(CCN2CC(CCC2)C(=O)OCC)C=C1 | C17H25NO3
product | 3-(Diphenylhydroxymethyl)-1-(4-methoxyphenethyl)piperidine | C1(=CC=CC=C1)C(C1CN(CCC1)CCC1=CC=C(C=C1)OC)(O)C1=CC=CC=C1 | C27H31NO2
